US08648089B2
6-(3-bromo-6-(4-methoxyphenyl)-1H-indol-1-yl)-N-methylpyrimidin-4-amine
The target compound was prepared as in Example 10 using 3-bromo-1-(6-chloropyrimidin-4-yl)-6-(4-methoxyphenyl)-1H-indole (400 mg, 0.96 mmol) and methylamine hydrochloride (326 mg, 4.8 mmol).

reactant | 3-bromo-1-(6-chloropyrimidin-4-yl)-6-(4-methoxyphenyl)-1H-indole | 0.96 mmol, 400 mg | BrC1=CN(C2=CC(=CC=C12)C1=CC=C(C=C1)OC)C1=NC=NC(=C1)Cl | C19H13BrClN3O
reactant | methylamine hydrochloride | 4.8 mmol, 326 mg | Cl.CN
product | 6-(3-bromo-6-(4-methoxyphenyl)-1H-indol-1-yl)-N-methylpyrimidin-4-amine | BrC1=CN(C2=CC(=CC=C12)C1=CC=C(C=C1)OC)C1=CC(=NC=N1)NC | C20H17BrN4O
